US05480899
Synthesis of 5-(chloromethyl)-3-(4-chlorophenyl)-2-oxooxazolidine
A toluene (10 ml) solution of 5.9 g of 4-chlorophenyl isocyanate and 3.3 ml of epichlorohydrin was added dropwise to a toluene (1 ml) solution of 0.2 g of lithium bromide and 0.42 g of tri-n-butylphosphine oxide at 100° C. The mixture was stirred at the same temperature for 3 hours. The reaction mixture was concentrated under reduced pressure. Ethanol was added to the obtained residue to collect the crystals by filtration. Thus, 8.9 g of the title compound was obtained (yield 93%).

reactant | 4-chlorophenyl isocyanate | 5.9 g | ClC1=CC=C(C=C1)N=C=O | C7H4ClNO
reactant | epichlorohydrin | 3.3 ml | C(Cl)C1CO1 | C3H5ClO
reactant | lithium bromide | 0.2 g | [Br-].[Li+]
reactant | tri-n-butylphosphine oxide | 0.42 g | C(CCC)P(CCCC)(CCCC)=O | C12H27OP
solvent | toluene | 1 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 5-(chloromethyl)-3-(4-chlorophenyl)-2-oxooxazolidine | 8.9 g, yield 93% | ClCC1CN(C(O1)=O)C1=CC=C(C=C1)Cl | C10H9Cl2NO2
